US07960409B2
7-{[4-(1-ethyl-1-hydroxypropyl)-1H-1,2,3-triazol-1-yl]methyl}-4-phenylquinoline-2-carbonitrile
A mixture of 7-(azidomethyl)-4-phenylquinoline-2-carbonitrile (100 mg, 0.35 mmol), 3-ethylpent-1-yn-3-ol (47 mg, 0.42 mmol), copper iodide (100 mg, 0.52 mmol) and diisopropylethylamine (305 μL, 1.75 mmol) in THF (4 mL) was stirred at rt for 6 h. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification on silica gel (eluting with acetone/dichloromethane, 2:8) gave the title compound. MS (+ESI): 398 (M+H)+.

reactant | 7-(azidomethyl)-4-phenylquinoline-2-carbonitrile | 0.35 mmol, 100 mg | N(=[N+]=[N-])CC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H11N5
reactant | 3-ethylpent-1-yn-3-ol | 0.42 mmol, 47 mg | C(C)C(C#C)(CC)O | C7H12O
reactant | diisopropylethylamine | 1.75 mmol, 305 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.52 mmol, 100 mg | [Cu](I)I
product | 7-{[4-(1-ethyl-1-hydroxypropyl)-1H-1,2,3-triazol-1-yl]methyl}-4-phenylquinoline-2-carbonitrile | C(C)C(CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C24H23N5O
